US07572819B2
Intermediate 4: 5-methyl-3-pyridinyl trifluoromethanesulfonate
In a two-necked round bottomed flask, under nitrogen atmosphere, 3-hydroxy-5-methylpyridine (500 mg, 4.58 mmol) was suspended in 10 ml of dry methylene chloride. Triethylamine was added (2.5 ml, 18.32 mmol, 4 eq.) and the resulting solution cooled to 0° C. A solution of triflic anhydride (1.15 ml, 6.87 mmol, 1.5 eq) in 10 ml of dry methylene chloride was then added dropwise. The solution turned purple. After the end of the addition the mixture was stirred keeping the temperature at 0 C for 1 h and then allowed to warm to room temperature. The solvent was removed under vacuum. The crude oil obtained was taken up in a small quantity of DCM and loaded on a 25 g Silica cartridge (IST). The column was washed with pure cyclohexane and the product collected with a cyclohexane/AcOEt 9/1 mixture. The product was obtained in two fractions: a pure one (orange liquid, 260 mg) and a less pure one (orange liquid, 372 mg, additional small spots in TLC and slight aliphatic impurities in the 1H-NMR). Total ˜2.6 mmol, 57% yield.

reactant | 3-hydroxy-5-methylpyridine | 4.58 mmol, 500 mg | OC=1C=NC=C(C1)C | C6H7NO
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 6.87 mmol, 1.15 ml, 1.5 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-3-pyridinyl trifluoromethanesulfonate | 57% yield | FC(S(=O)(=O)OC=1C=NC=C(C1)C)(F)F | C7H6F3NO3S
